US05891916
2-(2-Pyridyl)phenylacetonitrile
To a solution of benzylcyanide (12.33 g) in tetrahydrofuran (85 ml) was added dropwise, at -70° C. in argon streams, a hexane solution (65 ml) of n-butyl lithium. The mixture was then stirred for 30 minutes at -50° C., to which was then added dropwise 2-bromopyridine (9.7 ml). The reaction temperature was gradually raised up to 0° C. Fifteen minutes later, a saturated ammonium chloride solution was added to the reaction mixture, which was subjected to extraction with ethyl acetate. The extract solution was washed with water, dried over anhydrous sodium sulfate and concentrated to dryness. The concentrate was purified by means of a silica gel column chromatography to give the title compound (6.59 g).

reactant | benzylcyanide | 12.33 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromopyridine | 9.7 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | hexane | 65 ml | CCCCCC | C6H14
product | 2-(2-Pyridyl)phenylacetonitrile | 6.59 g | N1=C(C=CC=C1)C1=C(C=CC=C1)CC#N | C13H10N2
